US08017789B2
In 75 mL of methylene chloride, 5.00 g of 6-(chloromethyl)-1,2-benzisoxazol-3-ol was suspended, and to this was added 0.137 g of pyridinium p-toluenesulfonic acid and 2.98 mL of 3,4-dihydro-2H-pyran. This was stirred for 8 hours at room temperature. To the reaction mixture was added 30 mL of water and an organic layer was separated. An aqueous layer was extracted with 10 mL of methylene chloride, and this along with the organic layer was washed with an aqueous saturated sodium chloride solution and dried with anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, and 20 mL of diisopropyl ether was added to the obtained residue. A seed crystal was added and, after 30 minutes of stirring at room temperature, solids were filtered to obtain 6.65 g of 6-(chloromethyl)-2-(tetrahydro-2H-pyran-2-yl)-1,2-benzisoxazol-3(2H)-one in the form of a pale yellowish-white solid.

reactant | 6-(chloromethyl)-1,2-benzisoxazol-3-ol | 5.00 g | ClCC1=CC2=C(C(=NO2)O)C=C1 | C8H6ClNO2
reactant | pyridinium p-toluenesulfonic acid | 0.137 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 2.98 mL | O1CCCC=C1 | C5H8O
reactant | water | 30 mL | O | H2O
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 6-(chloromethyl)-2-(tetrahydro-2H-pyran-2-yl)-1,2-benzisoxazol-3(2H)-one | 6.65 g | ClCC1=CC2=C(C(N(O2)C2OCCCC2)=O)C=C1 | C13H14ClNO3
